US07893060B2
5-(5-Chloro-7-morpholin-4-yl-thiazolo[5,4-d]pyrimidin-2-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester
To a solution of 5-chloro-7-morpholin-4-yl-thiazolo[5,4-d]pyrimidine-2-carbaldehyde (57 mg, 0.20 mmol) in 1,2-dichloroethane (2 mL) was added hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester (46 mg, 0.22 mmol). The mixture was stirred at RT for 5 min before sodium triacetoxyborohydride (64 mg, 0.30 mmol) was added. The resulting solution was stirred at RT for 1 h. The crude reaction mixture was partitioned between DCM and brine. The organic layer was isolated, then dried (MgSO4) and concentrated in vacuo. The resultant residue was purified by column chromatography to give the title compound as a white solid (83 mg, 86%).

reactant | 5-chloro-7-morpholin-4-yl-thiazolo[5,4-d]pyrimidine-2-carbaldehyde | 0.20 mmol, 57 mg | ClC=1N=C(C2=C(N1)SC(=N2)C=O)N2CCOCC2 | C10H9ClN4O2S
reactant | hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | 0.22 mmol, 46 mg | C(C)(C)(C)OC(=O)N1CC2CNCC2C1 | C11H20N2O2
reactant | sodium triacetoxyborohydride | 0.30 mmol, 64 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
product | 5-(5-Chloro-7-morpholin-4-yl-thiazolo[5,4-d]pyrimidin-2-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | 83 mg, 86% | C(C)(C)(C)OC(=O)N1CC2CN(CC2C1)CC=1SC=2N=C(N=C(C2N1)N1CCOCC1)Cl | C21H29ClN6O3S
